US09238656B2
(1S,2S,3R,4R)-3-[6-Chloro-2-(1,3-dimethyl-5-morpholin-4-yl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXXII)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50.00 mg, 0.1702 mmol), 1,3-Dimethyl-5-morpholin-4-yl-1H-pyrazole-4-carbaldehyde (39.2 mg, 0.187 mmol), and Ammonium acetate (26.2 mg, 0.340 mmol) were reacted to produce 28.80 mg (35%) of the title compound. (300 MHz, DMSO-d6) 12.67 (s, 1H), 7.93 (s, 1H), 7.68 (m, 1H), 7.18 (s, 1H), 6.98 (d, J=8.5 Hz, 1H), 6.31 (d, J=15 Hz, 2H), 5.28 (t, J=17 Hz, 9 Hz, 1H), 3.65 (m, 7H), 3.04 (m, 4H), 2.94 (m, 2H), 2.84 (s, 1H), 2.74 (s, 1H), 2.57 (d, J=9 Hz, 1H), 2.27 (d, J=9 Hz, 1H), 2.18 (s, 3H), 1.40 (d, J=8 Hz, 1H). MS=483 (M+H), HPLC: 1.99 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.1702 mmol, 50.00 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 1,3-Dimethyl-5-morpholin-4-yl-1H-pyrazole-4-carbaldehyde | 0.187 mmol, 39.2 mg | CN1N=C(C(=C1N1CCOCC1)C=O)C | C10H15N3O2
reactant | Ammonium acetate | 0.340 mmol, 26.2 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(1,3-dimethyl-5-morpholin-4-yl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 28.80 mg, 35% | ClC=1C(=C2C(=NC1)NC(=N2)C=2C(=NN(C2N2CCOCC2)C)C)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C23H27ClN8O2
